US06201070B1
Preparation of Tripropylene glycol 3,4-epoxycyclohexanecarboxylate adduct
Methyl 3,4-epoxycyclohexanecarboxylate (50 g), and tripropylene glycol (33.8 g) in 60 milliliters (“mL”) of heptane were heated in a flask equipped with a 120-mL insulated Vigreaux column, Dean-Stark trap, drying tube and magnetic stirrer. The Dean-Stark trap was pre-filled with heptane. After refluxing the heptane for 60 minutes to azeotropically remove any water moisture, 0.0340 g of anhydrous sodium acetate (406 ppm by weight based on undiluted starting materials) was added as a transesterification catalyst. Methanol/heptane azeotrope was collected in the Dean-Stark trap and heating was continued for 405 minutes. The reaction temperature gradually increased from 102 to 113° C. during the course of the reaction, and the lower (methanol-rich) layer had a volume of 20.2 mL. Heating was continued and a nitrogen sparge was used to help remove any remaining heptane solvent by distillation. The product was allowed to cool to room temperature. The product consisted of 86 wt % of the mono and diepoxide adducts of tripropylene glycol, 0.8 wt % residual monoepoxide, and 14 wt % higher oligomers by uncorrected size-exclusion chromatography using THF solvent and a refractive index detector. Purity by gas chromatography was 88%. The viscosity of the product was 380 centipoise (cP) and the epoxy equivalent weight (titration) was 245 (theoretical 230). The product resin was formulated into a photo-crosslinkable material without further purification.

reactant | Methyl 3,4-epoxycyclohexanecarboxylate | 50 g | O1C2CC(CCC21)C(=O)OC | C8H12O3
reactant | tripropylene glycol | 33.8 g | CC(COC(C)COC(C)CO)O | C9H20O4
solvent | heptane | 60 milliliters | CCCCCCC | C7H16
product | Tripropylene glycol 3,4-epoxycyclohexanecarboxylate | O1C2CC(CCC21)C(=O)O.CC(COC(C)COC(C)CO)O | InChI=1S/C9H20O4.C7H10O3/c1-7(11)5-12-9(3)6-13-8(2)4-10;8-7(9)4-1-2-5-6(3-4)10-5/h7-11H,4-6H2,1-3H3;4-6H,1-3H2,(H,8,9)
